US07902375B2
3-[5-(2-Amino-ethyl)-tetrazol-1-yl]-propan-1-ol
This material is prepared by an analogous procedure to intermediate CI2 by replacing the ethyliodide in step 1 with 3-bromo-1-propanol.

reactant | 2-(1-Ethyl-1H-tetrazol-5-yl)-ethylamine | C(C)N1N=NN=C1CCN | C5H11N5
reactant | ethyliodide | C(C)I | C2H5I
reactant | 3-bromo-1-propanol | BrCCCO | C3H7BrO
product | 3-[5-(2-Amino-ethyl)-tetrazol-1-yl]-propan-1-ol | NCCC1=NN=NN1CCCO | C6H13N5O
